US09034866B2
Synthesis of (R)-4,4-difluoro-9-((3-hydroxy-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 9-iodo-4,4-difluoro-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide was reacted with (R)-3-ethynyl-3-hydroxypyrrolidin-2-one to give a mixture of titled compound after purification by prep HPLC.

reactant | 9-iodo-4,4-difluoro-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | IC1=CC2=C(OCC(C=3N2N=C(C3)C(=O)N)(F)F)C=C1 | C12H8F2IN3O2
reactant | (R)-3-ethynyl-3-hydroxypyrrolidin-2-one | C(#C)[C@]1(C(NCC1)=O)O | C6H7NO2
product | (R)-4,4-difluoro-9-((3-hydroxy-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | FC1(C=2N(C3=C(OC1)C=CC(=C3)C#C[C@]3(C(NCC3)=O)O)N=C(C2)C(=O)N)F | C18H14F2N4O4
